data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O+:21]=C(CC#N)OCC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCOC(=[O:21])CC#N 10=20;20,21=21
[Li:11][C:10]1=CC=CC=C1.CCCCO[C:20](=[O:21])CC(C)C>>[Li+:11].CCCCO[C:20](CC(C)C)([C:10]1=CC=CC=C1)[O-:21] 10,11=10,20;20,21=21
[H:20][NH+:21](C1=CC(=CC=C1)C(F)(F)F)C(CC(=O)OCC)([O-])Cl.CC[N:10](CC)CC.CC(=O)C>>[H:20][N+:10](CC)(CC)CC.CCOC(=O)CC([NH:21]C1=CC(=CC=C1)C(F)(F)F)([O-])Cl.CC(=O)C 10=20;20,21=21
[H:20][OH:21].C[C:11](=[CH:10]C1CCC(C1C(=O)C)SC2=CC=CC=C2)[O-:12].[K+]>>[H:20][CH:10](C1CCC(C1C(=O)C)SC2=CC=CC=C2)[C:11](=[O:12])C.[OH-:21].[K+] 10,11=10,20;20,21=21;12=11
CC[SH:10].[CH2:20]=[CH:21][C:22](=[OH+:23])O>>CC[SH+:10][CH2:20][CH:21]=[C:22](O)[OH:23] 10=20;22,23=23;20,21=21,22
CN1C2=C(C=CC=C2)C3=C[C:10](=CC=C31)[CH:11]([OH:12])[O:20][OH2+:21].CO>>CN1C2=C(C=CC=C2)C3=C[C:10](=CC=C31)[O:20][CH:11]=[OH+:12].[OH2:21].CO 10,11=10,20;20,21=21;12=11
CC(C)(C)[Si](C)(C)OCC(C)(C1=CC=CC=C1)[C:22](=[O:23])[N:21]=[N+:20]=[N-:10].CC[NH+](CC)CC.C1=CC=C(C=C1)OP(=O)([O-])OC2=CC=CC=C2>>CC(C)(C)[Si](C)(C)OCC(C)(C1=CC=CC=C1)[C:22](=[N:21][N+:20]#[N:10])[O-:23].CC[NH+](CC)CC.C1=CC=C(C=C1)OP(=O)([O-])OC2=CC=CC=C2 10=20;22,23=23;20,21=21,22
[Li:20]N(C(C)C)C(C)C.C1CC2C(C1)[O:10]2>>[Li-:20](N(C(C)C)C(C)C)[O+:10]1C2C1CCC2 10=20,
C[OH:10].[PH+:20](Br)(Br)Br>>C[OH+:10][PH:20](Br)(Br)Br 10=20,
[H:20][C:21]1(C=CC2=C([CH+:22]1)CCO2)C(=[O+][Al-](Cl)(Cl)Cl)C.[Al-]([Cl:10])(Cl)(Cl)Cl>>[H:20][Cl+:10][Al-](Cl)(Cl)Cl.CC(=[O+][Al-](Cl)(Cl)Cl)[C:21]1=[CH:22]C2=C(C=C1)OCC2 10=20;20,21=21,22
[H:20][N:21](CC1(CC2C=CC1O2)O)[N:22]=[OH+:23].[OH2:10].OS(=O)(=O)[O-].[Na+]>>[H:20][OH2+:10].C1C2C=CC(C1(C[N:21]=[N:22][OH:23])O)O2.OS(=O)(=O)[O-].[Na+] 10=20;22,23=23;20,21=21,22
CN(C(=O)[CH:10]=[C:11]([O-:12])OC)C(=O)C1CN(C2=CC=CC(=C12)C=C)C(=O)C3=CC=CC=C3.CS(=O)(=O)[N-][N+:21]#[N:20].CC[NH+](CC)CC>>CN(C(=O)C1CN(C2=CC=CC(=C12)C=C)C(=O)C3=CC=CC=C3)C(=O)[CH:10]([C:11](=[O:12])OC)[N:20]=[N:21][N-]S(=O)(=O)C.CC[NH+](CC)CC 10,11=10,20;20,21=21;12=11
[Li:20]N(C(C)C)C(C)C.CC1=C/C(=[N:10]/N2CCCC2COC)/CCC1>>[Li-:20](N(C(C)C)C(C)C)/[N+:10](=C\1/CCCC(=C1)C)/N2CCCC2COC 10=20
[H:20][OH+:21][Na].C1=C(C(=C(C(=C1)Cl)Cl)[O-:10])C=O.O.[Cl-]>>[H:20][O:10]C1=C(C(=CC=C1C=O)Cl)Cl.[OH:21][Na].O.[Cl-] 10=20;20,21=21
C[C:20](C(=O)N(C)C1=CC=CC=C1)([N+:21]#N)Br.C1CC(=O)[N-:10]C1=O>>C[C:20](C(=O)N(C)C1=CC=CC=C1)([N:10]2C(=O)CCC2=O)Br.N#[N:21] 10=20;20,21=21
[CH:10](=[O:11])S>>[CH+:10]([O-:11])S 10,11=11
CCC[NH2:10].[CH3:20][I:21]>>CCC[NH2+:10][CH3:20].[I-:21] 10=20;20,21=21
[H:20][OH+:21]C1(C=NC(=C[N-]1)C2=CC=C(C=C2)S(=O)(=O)C)[N+]#N.[O-:10]S(=O)(=O)[O-].[Na+]>>[H:20][O:10]S(=O)(=O)[O-].CS(=O)(=O)C1=CC=C(C=C1)C2=C[N-]C(C=N2)([N+]#N)[OH:21].[Na+] 10=20;20,21=21
CC(C)(C)[Si](C)(C)OCC(C)(C1=CC=CC=C1)[C:20](N=[N+]=[N-])([O-:10])[O:21]P(=O)(OC2=CC=CC=C2)OC3=CC=CC=C3.CC[NH+](CC)CC>>CC(C)(C)[Si](C)(C)OCC(C)(C1=CC=CC=C1)[C:20](=[O:10])N=[N+]=[N-].C1=CC=C(C=C1)OP(=O)([O-:21])OC2=CC=CC=C2.CC[NH+](CC)CC 10=20;20,21=21
CC(=O)[O-:10].CO[Si:20](C)(C)C>>CC(=O)[O:10][Si-:20](C)(C)(C)OC 10=20,
CC[O+:21]([CH:20]1CC2C(C([O:10]1)CO[Si](C3=CC=CC=C3)(C4=CC=CC=C4)C(C)(C)C)OC(=O)O2)[Si](C)(C)C.C[Si](C)(C)CC=C.C(F)(F)(F)S(=O)(=O)[O-]>>CC[O:21][Si](C)(C)C.CC(C)(C)[Si](C1=CC=CC=C1)(C2=CC=CC=C2)OCC3C4C(C[CH:20]=[O+:10]3)OC(=O)O4.C[Si](C)(C)CC=C.C(F)(F)(F)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=C(O1)[N+](=O)[O-])C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C=C(O1)[N+](=O)[O-] 10=20;20,21=21,22
[H:20][NH+:21](C(C)C(=O)NC)C(C(C)NC(=O)OC)([O-])OC(=[N:10]C(C)C)NC(C)C>>[H:20][N+:10](=C(NC(C)C)OC(C(C)NC(=O)OC)([NH:21]C(C)C(=O)NC)[O-])C(C)C 10=20;20,21=21
[Li:20]N(C=C(C)[Si](CC)(CC)CC)C(C)(C)C.CCCC=[O:10].CC(C)NC(C)C>>[Li-:20](N(C=C(C)[Si](CC)(CC)CC)C(C)(C)C)[O+:10]=CCCC.CC(C)NC(C)C 10=20,
[H:20][Br:21].CCC1CC[C:11](=[CH:10]1)C>>[H:20][CH:10]1C(CC[C+:11]1C)CC.[Br-:21] 10,11=10,20;20,21=21
[Li-:10](O)[OH+:11]C1(CCC2(C1C(CC2)(C)C)C)C#C>>[Li:10]O.CC1(CCC2(C1C(CC2)(C#C)[OH:11])C)C 10,11=11
CCC(=O)N(C1=CC=CC=C1)C2(CC[NH:10]CC2)C(=O)OC.C1=CC=C(C=C1)C[CH2:20][Br:21]>>CCC(=O)N(C1=CC=CC=C1)C2(CC[NH+:10](CC2)[CH2:20]CC3=CC=CC=C3)C(=O)OC.[Br-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC1(CCCC(=O)C1)[OH:10]>>[H:20][OH+:10]C1(CCCC(=O)C1)C.OS(=O)(=O)[O-:21] 10=20;20,21=21
C[C:20](=[O:21])C.COP(=O)([C-:10]=[N+]=[N-])OC>>C[C:20](C)([C:10](=[N+]=[N-])P(=O)(OC)OC)[O-:21] 10=20;20,21=21
CC[NH2:10].C[CH:20]=[NH+:21]C>>CC[NH2+:10][CH:20](C)[NH:21]C 10=20;20,21=21
C[C:10]1=[C:11](CCC2([C:20]1(CCC2=O)[OH2+:21])C)[NH:12]C(C(C)C)C(=O)O.CC(C)C(C(=O)[O-])N.O>>C[C:10]1=[C:20]2CCC(=O)C2(CC[C:11]1=[NH+:12]C(C(C)C)C(=O)O)C.[OH2:21].CC(C)C(C(=O)[O-])N.O 10,11=10,20;20,21=21;12=11
CC[OH:10].C[O+:21]=[CH:20]CC1=CC=CC=C1>>CC[OH+:10][CH:20](CC1=CC=CC=C1)[O:21]C 10=20;20,21=21
C[OH:10].[CH:20](=[NH2+:21])O.[Cl-]>>C[OH+:10][CH:20]([NH2:21])O.[Cl-] 10=20;20,21=21
CCN[C:20](CCC(=O)OC(=O)C)([OH:10])[Cl:21]>>CCN[C:20](=[OH+:10])CCC(=O)OC(=O)C.[Cl-:21] 10=20;20,21=21
